US07109354B2
a) (4-Bromo-3-methyl-phenyl)-methyl-amine
A solution of 4-bromo-3-methylaniline (3.72 g, 20 mmol) in formic acid (15 mL) was heated at 100° C. for 8 h. The solvent was removed in vacuo and the residue was partitioned between EtOAc (100 mL) and aq NaHCO3 (50 mL). The layers were separated and the organic layers was dried (Na2SO4) and concentrated. The residue was dissolved in THF (80 mL) and cooled to 0° C. Lithium aluminum hydride (1.52 g, 40 mmol) was added portionwise over 10 min. The mixture was stirred at rt for 8 h and an additional equivalent (750 mg) of LAH was added. After 16 h, the mixture was quenched with EtOAc and MeOH and the solids were filtered. The material was purified by SiO2 flash column chromatography to yield the title compound (2.56 g, 64%) as a colorless oil. 1H-NMR (CDCl3): δ 7.29 (d, 1H, J=8.6 Hz), 6.33 (dd, 1H, J=2.8 Hz), 7.29 (d, 1H, J=2.8, 8.6 Hz), 3.66 (s, 2H), 2.81 (d, 1H, J=5.4 Hz), 2.33 (s, 3H).

reactant | 4-bromo-3-methylaniline | 20 mmol, 3.72 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | Lithium aluminum hydride | 40 mmol, 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | LAH | 750 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | formic acid | 15 mL | C(=O)O | CH2O2
product | (4-Bromo-3-methyl-phenyl)-methyl-amine | 2.56 g, 64% | BrC1=C(C=C(C=C1)NC)C | C8H10BrN
